US08383631B2
3-amino-1-[{4-(4-t-butylphenyl)piperazin-1-yl}propanoyl]-6-N-(p-tolyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one (Compound 27)
A target compound (173.3 mg, 0.336 mmol, 86.8%) was yielded as solid in the same manner as Example 1 by reacting 3-amino-5,6-dihydro-6-N-(p-tolyl)-1H-pyrazolo[3,4-c]pyridin-7(4H)-one (94 mg, 0.388 mmol) with potassium carbonate (80.4 mg, 0.582 mmol) and 1-{4-(4-t-butylphenyl)piperazin-1-yl}-3-chloropropan-1-one (131.5 mg, 0.426 mmol).

reactant | 3-amino-5,6-dihydro-6-N-(p-tolyl)-1H-pyrazolo[3,4-c]pyridin-7(4H)-one | 0.388 mmol, 94 mg | NC1=NNC=2C(N(CCC21)C2=CC=C(C=C2)C)=O | C13H14N4O
reactant | potassium carbonate | 0.582 mmol, 80.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-{4-(4-t-butylphenyl)piperazin-1-yl}-3-chloropropan-1-one | 0.426 mmol, 131.5 mg | C(C)(C)(C)C1=CC=C(C=C1)N1CCN(CC1)C(CCCl)=O | C17H25ClN2O
product | 3-amino-1-[{4-(4-t-butylphenyl)piperazin-1-yl}propanoyl]-6-N-(p-tolyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one | NC1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)C)=O)C(CCN2CCN(CC2)C2=CC=C(C=C2)C(C)(C)C)=O | C30H38N6O2
